US06369254B1
(A) Synthesis of 2,2′-dibromo-1,2-diphenylethane
200 g (0.8 mol) of 2-bromobenzylbromide and 800 ml of dry THF were placed in a 2 L round bottom flask equipped with mechanical stirrer. Keeping this mixture at 20° C., 9.8 g of Mg (0.4 mol) was added in small portions. The reaction was started with a trace of iodine and stirred for 20 h. Workup was done by decanting the organic layer from the salts and washing the salts with 4 portions of 50 ml THF. The organic layers were combined and concentrated in vacuo. The resulting solid was dissolved in 400 ml dichloromethane and washed with 400 ml 5% HCl and twice with 200 ml water. The organic layer was separated from the aqueous layer, dried with MgSO4, and concentrated in vacuo. Crystallization was done from ethanol. The product was isolated as white crystals (52 g). The remaining supernatant liquor was distilled to remove the starting material and by-products. The distilled product was crystallized from pentane and afforded an additional 12.6 g of product. Total product 64.6 g. Yield 48%.

reactant | 2-bromobenzylbromide | 0.8 mol, 200 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | iodine | II | I2
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 2,2′-dibromo-1,2-diphenylethane | 52 g | BrC(CC1=CC=CC=C1)C1=C(C=CC=C1)Br | C14H12Br2
